US09193692B2
2,5-Dibromo-4-methylpyridine (4.0 g, 15.94 mmol) was dissolved in toluene (60.0 mL) and the reaction was cooled to −78° C. Butyllithium (7.01 mL, 17.54 mmol) was added dropwise and the reaction was allowed to stir for 30 min. Acetone (4.69 mL, 63.8 mmol) was then added and the reaction was allowed to warm to rt and stir for 16 h. The reaction was quenched with saturated ammonium chloride, extracted into ethyl acetate (3×200 mL) and washed with water followed by brine. The organics were dried over magnesium sulfate and volatiles removed under reduced pressure. The compound was purified on silica gel chromatography (0-50% ethyl acetate in hexanes) to afford 2-(5-bromo-4-methylpyridin-2-yl)propan-2-ol (2.33 g, 10.13 mmol, 63.5% yield). MS (ESI) m/z 230.3 [M]+, 232.3 [M+2]+.

reactant | 2,5-Dibromo-4-methylpyridine | 15.94 mmol, 4.0 g | BrC1=NC=C(C(=C1)C)Br | C6H5Br2N
reactant | Butyllithium | 17.54 mmol, 7.01 mL | C(CCC)[Li]
reactant | Acetone | 63.8 mmol, 4.69 mL | CC(=O)C | C3H6O
solvent | toluene | 60.0 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-bromo-4-methylpyridin-2-yl)propan-2-ol | 10.13 mmol, 2.33 g, 63.5% yield | BrC=1C(=CC(=NC1)C(C)(C)O)C | C9H12BrNO
